US07732477B2
Methyl6-methoxy-1-benzothiophene-2-carboxylate
Using 2.5 g (16.2 mmol) of 2-fluoro-4-methoxybenzaldehyde, 0.97 g (24.3 mmol) of sodium hydride (60% pure) and 1.89 g (17.8 mmol) of methyl mercaptoacetate, 3.05 g (84.7% of theory) of the title compound are obtained.

reactant | 2-fluoro-4-methoxybenzaldehyde | 16.2 mmol, 2.5 g | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | sodium hydride | 24.3 mmol, 0.97 g | [H-].[Na+]
reactant | methyl mercaptoacetate | 17.8 mmol, 1.89 g | SCC(=O)OC | C3H6O2S
product | Methyl6-methoxy-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C=CC(=C2)OC | C11H10O3S
